US08466282B2
1-(2-cyclopropylethyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride
To a solution of tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (257 mg), 2-cyclopropylethanol (86 mg) and triphenylphosphine (263 mg) in toluene (10 ml) was added diisopropyl azodicarboxylate (506 μl) at room temperature, and the mixture was stirred at the same temperature for 17 hr. The reaction mixture was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give tert-butyl (3S,5R)-3-[{[1-(2-cyclopropylethyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate. The obtained tert-butyl (3S,5R)-3-[{[1-(2-cyclopropylethyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate was dissolved in 4M hydrogen chloride-ethyl acetate (5 ml), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated, and the residue was subjected to reversed-phase preparative HPLC and the eluted fraction was concentrated under reduced pressure. The residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. 4M Hydrogen chloride-ethyl acetate (1 ml) was added and the mixture was stirred for 5 min. The solvent was evaporated under reduced pressure to give the object product (220 mg).

reactant | tert-butyl (3S,5R)-3-[{[1-(2-cyclopropylethyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | C1(CC1)CCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C32H47N5O5
reactant | hydrogen chloride-ethyl acetate | 4M, 5 ml | C(C)(=O)OCC.Cl
product | 1-(2-cyclopropylethyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride | 220 mg | Cl.Cl.C1(CC1)CCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | InChI=1S/C27H39N5O3.2ClH/c1-19(2)18-32(22-15-21(16-28-17-22)26(33)30-11-13-35-14-12-30)27(34)25-29-23-5-3-4-6-24(23)31(25)10-9-20-7-8-20;;/h3-6,19-22,28H,7-18H2,1-2H3;2*1H/t21-,22+;;/m1../s1
